US09145393B2
Step 3: (R)-tert-Butyl 3-((5-bromo-2-methoxypyridin-3-yl)amino)piperidine-1-carboxylate
(R)-tert-Butyl 3-aminopiperidine-1-carboxylate (2.99 g, 15.0 mmol) and cesium carbonate (9.84 g, 30.0 mmol) were added to a solution of 3,5-dibromo-2-methoxypyridine (4.00 g, 15.0 mmol) in dioxane (100 mL). The mixture was degassed for 20 min and then Xphos (0.692 g, 1.20 mmol) and Pd2(dba)3 (1.10 g, 1.20 mmol) were added. The mixture was stirred at 110° C. for 12 h. The mixture was allowed to cool to room temperature and was filtered through celite and concentrated. The residue was purified by chromatography using 5-10% ethyl acetate in pet ether to give 2 g of the desired compound: 1H NMR (300 MHz, DMSO-d6) 7.44 (narrow m, 1H), 6.95 (s, 1H), 5.15-5.20 (m, 1H), 3.91 (s, 3H), 3.50-3.95 (m, 2H), 3.20-3.40 (m, 1H), 2.80-3.05 (m, 2H), 1.80-1.95 (m, 1H), 1.10-1.70 (m, 3H), 1.36 (s, 9H); MS (ES) m/z 386, 384 (M+).

reactant | (R)-tert-Butyl 3-aminopiperidine-1-carboxylate | 15.0 mmol, 2.99 g | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | cesium carbonate | 30.0 mmol, 9.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,5-dibromo-2-methoxypyridine | 15.0 mmol, 4.00 g | BrC=1C(=NC=C(C1)Br)OC | C6H5Br2NO
reactant | Xphos | 1.20 mmol, 0.692 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 1.20 mmol, 1.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-tert-Butyl 3-((5-bromo-2-methoxypyridin-3-yl)amino)piperidine-1-carboxylate | 2 g | BrC=1C=C(C(=NC1)OC)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C16H24BrN3O3
